US08563505B2
(S)-2-((but-3-enyloxy)carbonylamino)-3,3-dimethylbutanoic acid (255 mg, 1.111 mmol), DIEA (0.40 mL, 2.223 mmol) and HATU (310 mg, 0.815 mmol) were added to a solution of (2S,4R)-methyl 4-methoxy-4-(3′-vinylbiphenyl-3-yl)pyrrolidine-2-carboxylate (250 mg 0.741 mmol) in DCM (3 mL). The reaction was stirred at r.t. for 2 hrs. The reaction was evaporated and purified by flash chromatography on the Biotage (10-40% EtOAc:Hex) to give (2S,4R)-methyl 1-((S)-2-((but-3-enyloxy)carbonylamino)-3,3-dimethylbutanoyl)-4-methoxy-4-(3′-vinylbiphenyl-3-yl)pyrrolidine-2-carboxylate (277 mg, 0.505 mmol, 68% yield) as a white foam. LCMS: rt=2.31 min. [M+H]+=549; Phenomenex-Luna C-18 (5μ) (3.0×50 mm); Solvent A=10% acetonitrile—90% water—0.1% TFA, Solvent 13=90% acetonitrile—10% water—0.1% TFA; gradient 0% to 100% solvent B over 2 min. and then hold for 1 min.; 4 mL/min, inj. vol.=5 uL; wavelength=220.

reactant | (S)-2-((but-3-enyloxy)carbonylamino)-3,3-dimethylbutanoic acid | 1.111 mmol, 255 mg | C(CC=C)OC(=O)N[C@H](C(=O)O)C(C)(C)C | C11H19NO4
reactant | DIEA | 2.223 mmol, 0.40 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.815 mmol, 310 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-methyl 4-methoxy-4-(3′-vinylbiphenyl-3-yl)pyrrolidine-2-carboxylate | 0.741 mmol, 250 mg | CO[C@]1(C[C@H](NC1)C(=O)OC)C=1C=C(C=CC1)C1=CC(=CC=C1)C=C | C21H23NO3
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-methyl 1-((S)-2-((but-3-enyloxy)carbonylamino)-3,3-dimethylbutanoyl)-4-methoxy-4-(3′-vinylbiphenyl-3-yl)pyrrolidine-2-carboxylate | 0.505 mmol, 277 mg, 68% yield | C(CC=C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@](C1)(C=1C=C(C=CC1)C1=CC(=CC=C1)C=C)OC)C(=O)OC)C(C)(C)C | C32H40N2O6
